US04859229
A solution of 1.0 g of 3-chloro-perbenzoic acid in 15 ml of metyylene chloride is added dropwise while stirring at 0° C. during 1 hour to a solution of 2.3 g of 1-[4-chloro-2-fluoro-5 -(methylthio)methoxy-phenyl]-3-methyl-4-trifluoromethyl-2,6-(1H,3H)-pyrimidinedione in 30 ml of methylene chloride. The reaction mixture is subsequently stirred at room temperature for 15 hours, washed with dilute aqueous sodium bicarbonate solution and then with water and dried over anhydrous sodium sulphate. The organic phase is evaporated to dryness under reduced pressure and the residue is purified by chromatography on a silica gel column using diethyl ether/ethyl acetate and thereafter ethyl acetate alone as the eluent. There is obtained 1-[4-chloro-2-fluoro-5-(methylsulphinyl) methoxy-phenyl]-3-methyl-4-trifluoromethyl-2,6(1H,3H)pyrimidinedione, 1H-NMR (CDCl3, 400 MHz): 7.33 ppm (d.1H). 7.27 ppm (2d,1H), 6.34 ppm (2s,1H). 4.91-5.05 ppm (m,2H), 3.54 ppm (d,3H), 2.72 ppm (s,3H).

reactant | 3-chloro-perbenzoic acid | 1.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-[4-chloro-2-fluoro-5 -(methylthio)methoxy-phenyl]-3-methyl-4-trifluoromethyl-2,6-(1H,3H)-pyrimidinedione | 2.3 g | ClC1=CC(=C(C=C1OCSC)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C14H11ClF4N2O3S
solvent | chloride | 15 ml | [Cl-]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-chloro-2-fluoro-5-(methylsulphinyl) methoxy-phenyl]-3-methyl-4-trifluoromethyl-2,6(1H,3H)pyrimidinedione | ClC1=CC(=C(C=C1OCS(=O)C)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C14H11ClF4N2O4S
